US07622481B2
(a) 8-Bromo-2,3-dihydro-[1,4]dioxino[2,3-b]pyridine
A solution of 2,3-dihydro-[1,4]dioxino[2,3-b]pyridine (prepared by the method of H. Neunhoffer et al, Chem., Ber., 1990, 123 (12), 2453) (1.37 g, 10 mmol) in tetrahydrofuran (20 ml) under argon at −78° C. was treated over 15 minutes with a solution of n-butyl lithium (20 mmol) in tetrahydrofuran (8 ml). After 30 minutes a solution of 1,2-dibromo-1,1,2,2-tetrafluoro-ethane (2.6 g, 10 mmol) in tetrahydrofuran (10 ml) was added dropwise over 5 minutes. After a further 30 minutes the cooling bath was removed and saturated aqueous ammonium chloride (20 ml) and ether (20 ml) were added. The mixture was allowed to warm to room temperature then partitioned between ether/water. The organic extract was washed with half-saturated brine, dried and evaporated. The residue was chromatographed on silica eluting with a 0-30% gradient of ethyl acetate in dichloromethane affording a yellow solid (1.1 g, 51%).

reactant | 2,3-dihydro-[1,4]dioxino[2,3-b]pyridine | O1CCOC2=NC=CC=C21 | C7H7NO2
reactant | n-butyl lithium | 20 mmol | C(CCC)[Li]
reactant | 1,2-dibromo-1,1,2,2-tetrafluoro-ethane | 10 mmol, 2.6 g | BrC(C(F)(F)Br)(F)F | C2Br2F4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 8-Bromo-2,3-dihydro-[1,4]dioxino[2,3-b]pyridine | BrC1=C2C(=NC=C1)OCCO2 | C7H6BrNO2
